US05015661
rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-[(3-pyridinyl)ethynyl]-2H-1-benzopyran-6-ol.
Rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 4,6g, was reacted as described in Example 4 with 4.74 g of 3-bromopyridine. The reaction time was extended to 18 hours. The product was isolated by chromatography over 150 g of silica gel using 10 % (v/v) of ethyl acetate in methylene chloride for elution. Crystallization of the combined clean fractions from ethyl acetate/hexane gave off-white crystals with m.p. 172°-175° C. The analytical sample was recrystallized from tetrahydrofuran/hexane and had m.p. 175-178° C.

reactant | Rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-bromopyridine | 4.74 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-[(3-pyridinyl)ethynyl]-2H-1-benzopyran-6-ol | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC=2C=NC=CC2 | C20H21NO2
